US07642264B2
4-{4-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidin-2-yl}-pyridin-2-ylamine
A mixture of the above described 2-[2-(2,5-dimethyl-pyrrol-1-yl)-pyridin-4-yl]-4-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidine (280 mg, 0.577 mmol), hydroxylamine hydrochloride (200 mg, 2.89 mmol) 1.5 M NaOH-sol. (0.96 mL, 1.44 mmol) in 1-propanole (3 mL) was stirred at 120° C. for 3 h in a sealed tube. Cooled to rt, poured the reaction mixture directly on a silica gel column and chromatographed with EtOAc followed by trituration with diethyl ether/heptane to give the title compound (0.050 g, 27%) as an off-white solid. MS (ISP) 408.4 [(M+H)+]; mp 217° C.

reactant | 2-[2-(2,5-dimethyl-pyrrol-1-yl)-pyridin-4-yl]-4-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidine | 0.577 mmol, 280 mg | CC=1N(C(=CC1)C)C1=NC=CC(=C1)C1=NC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C28H22F3N5
reactant | hydroxylamine hydrochloride | 2.89 mmol, 1.5 M, 200 mg | Cl.NO
product | 4-{4-[6-Methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidin-2-yl}-pyridin-2-ylamine | 0.050 g, 27% | CC1=CC(=CC(=N1)C1=NC(=NC=C1)C1=CC(=NC=C1)N)C1=CC=C(C=C1)C(F)(F)F | C22H16F3N5
